US08247429B2
methyl 4-(3-ethoxy-3-oxopropyl)nicotinate
Under an argon gas atmosphere, a mixture of zinc (21.0 g, 321 mmol) and 1,2-dibromoethane (1.40 mL, 16.2 mmol) in tetrahydrofuran (105 mL) was stirred at 80° C. for 20 min. After cooling to room temperature, chlorotrimethylsilane (400 μL, 3.13 mmol) was added at room temperature, and the mixture was stirred for 30 min. A solution of ethyl 3-iodopropanoate (60.0 g, 263 mmol) in tetrahydrofuran (53 mL) was added dropwise to the mixture at room temperature, and the mixture was stirred at 40° C. for 3 hr. A solution of copper(I) cyanide (19.2 g, 214 mmol) and lithium chloride (18.3 g, 432 mmol) in tetrahydrofuran (50 mL) was added dropwise to the mixture at 0° C., and the mixture was stirred for 30 min. This mixture was added dropwise at −78° C. under an argon gas atmosphere to a mixture obtained by stirring a solution of ethyl chlorocarbonate (19.4 mL, 203 mmol) and methyl nicotinate (27.8 g, 203 mmol) in tetrahydrofuran (105 mL) at 0° C. for 30 min, and the mixture was stirred for 12 hr while heating to room temperature. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was filtered. The filtrate was concentrated under reduced pressure, and the insoluble material was filtered off. The filtrate was extracted with ethyl acetate, and the extract was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. Xylene (105 mL) and sulfur (20.0 g, 624 mmol) were added to the residue, and the mixture was stirred at 140° C. for 12 hr. After cooling to room temperature, the insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→30/70) to give the title compound (20.5 g, yield 43%).

reactant | 1,2-dibromoethane | 16.2 mmol, 1.40 mL | BrCCBr | C2H4Br2
reactant | ethyl 3-iodopropanoate | 263 mmol, 60.0 g | ICCC(=O)OCC | C5H9IO2
reactant | copper(I) cyanide | 214 mmol, 19.2 g | [Cu]C#N
reactant | lithium chloride | 432 mmol, 18.3 g | [Cl-].[Li+]
reactant | ethyl chlorocarbonate | 203 mmol, 19.4 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | methyl nicotinate | 203 mmol, 27.8 g | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
reactant | sulfur | 624 mmol, 20.0 g | [S] | S
solvent | tetrahydrofuran | 105 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 53 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 105 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | zinc | 321 mmol, 21.0 g | [Zn] | Zn
catalyst | chlorotrimethylsilane | 3.13 mmol, 400 μL | Cl[Si](C)(C)C | C3H9ClSi
solvent | Xylene | 105 mL | C=1(C(=CC=CC1)C)C | C8H10
product | methyl 4-(3-ethoxy-3-oxopropyl)nicotinate | 20.5 g, yield 43% | C(C)OC(CCC1=CC=NC=C1C(=O)OC)=O | C12H15NO4
